US09422267B2
To a solution of (2S,4R)-1-tertbutoxycarbonyl-2-methoxycarbonyl-4-hydroxy pyrrolidine (10 g, 40.81 mmol) in DMF (60 mL) at 0° C. was added NaH (2.9 g, 122.4 mmol) and the resultant mixture was allowed to stir at the same temperature for 30 min. To this mixture was added MeI (5.08 mL, 81.63 mmol) dropwise at 0° C. and the reaction mixture was allowed to stir at RT for 2 h. The reaction mixture was poured onto ice-cold water (200 mL) and extracted with EtOAc (250 mL). The organic layer was washed with water (8×100 mL) and dried over anhydrous sodium sulfate. Removal of solvent under reduced pressure afforded (2S,4R)-1-tertbutoxycarbonyl-2-methoxycarbonyl-4-methoxy pyrrolidine (9 g) which was used for the next step without further purification.

reactant | (2S,4R)-1-tertbutoxycarbonyl-2-methoxycarbonyl-4-hydroxy pyrrolidine | 40.81 mmol, 10 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC | C11H19NO5
reactant | NaH | 122.4 mmol, 2.9 g | [H-].[Na+]
reactant | MeI | 81.63 mmol, 5.08 mL | CI | CH3I
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-1-tertbutoxycarbonyl-2-methoxycarbonyl-4-methoxy pyrrolidine | 9 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC)C(=O)OC | C12H21NO5
